US06887896B1
1-(8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl -propan-1-ol (Compound A-28)
To a solution of 8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalene-2-carbaldehyde (Compound A-27, 450 mg, 1.57 mmol) in THF (7 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU, 0.3 mL) was added ethylmagnesium chloride (2 M in THF, 1.6 mL, 3.1 mmol). After stirring at 0° C. for 30 min, the reaction was quenched with 1N HCl. The resulting mixture was diluted with water, extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried (MgSO4), filtered, and concentrated under reduced pressure to give the title compound as a colorless oil after purification by flash chromatography (silica gel, 10% ethyl acetate in hexane).

reactant | 8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalene-2-carbaldehyde | 1.57 mmol, 450 mg | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)C=O)OCC)(C)C | C19H26O2
reactant | ethylmagnesium chloride | 3.1 mmol, 2 M, 1.6 mL | C(C)[Mg]Cl
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.3 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl -propan-1-ol | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)C(CC)O)OCC)(C)C | C21H32O2
